US06573272B1
a) 2-Benzyloxycarbonyl-9-{[4-(fluoro)phenyl]methyl}-1,3,4,9-tetrahydro-2H-pyrido[3,4-b]indole
To a stirred solution of 2-benzyloxycarbonyl-1,3,4,9-tetrahydro-2H-pyrido[3,4 b]indole (5.0 g, 16.33 mmole) in dry DMF (75 mL) at 5° C. was added 60% NaH (0.98 g, 24.5 mmole). After 10 min, 4-fluorobenzyl bromide 3,40 g, 18.0 mmole) was added and the reaction was allowed to warm to RT and stir for 12 hr. The reaction contents were poured into H2O (100 mL) and extracted with EtOAc (2×100 mL). The combined organic phases were washed sequentially with H2O and brine, then were dried over Na2SO4. Concentration under reduced pressure and purification on silica (hexanes/EtOAc, 4:1) afforded the title compound (6.42 g, 95%) as a white solid: MS (ES) m/e 415 (M+H)+.

reactant | 2-benzyloxycarbonyl-1,3,4,9-tetrahydro-2H-pyrido[3,4 b]indole | 16.33 mmole, 5.0 g | C(C1=CC=CC=C1)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1 | C19H18N2O2
reactant | NaH | 24.5 mmole, 0.98 g | [H-].[Na+]
reactant | 4-fluorobenzyl bromide | 18.0 mmole, 3,40 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | H2O | 100 mL | O | H2O
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 2-Benzyloxycarbonyl-9-{[4-(fluoro)phenyl]methyl}-1,3,4,9-tetrahydro-2H-pyrido[3,4-b]indole | 6.42 g, 95% | C(C1=CC=CC=C1)OC(=O)N1CC=2N(C3=CC=CC=C3C2CC1)CC1=CC=C(C=C1)F | C26H23FN2O2
